US08138175B2
B) ((R)-3,4-Dihydroxy-butyl)-carbamic acid benzyl ester
A solution of (R)-4-benzyloxycarbonylamino-2-hydroxy-butyric acid ethyl ester (2.17 g, 7.71 mmol) in EtOH (6 mL) was added dropwise at <15° C. to a suspension of sodium borohydride (583 mg, 15.4 mmol) in EtOH (4 mL). The reaction mixture was stirred at RT for 16 h, then cooled to 5° C. and treated with MeOH (3 mL), then after 30 min acidified to pH 1-2 with conc. aq. HCl solution. The reaction mixture was stirred for 1 h, then diluted with CH2Cl2, dried (MgSO4), filtered, and evaporated. Chromatography (SiO2; CH2Cl2/MeOH gradient) afforded the title compound (1.76 g, 96%). Light yellow solid, MS: 262.1 (M+Na)+.

reactant | (R)-4-benzyloxycarbonylamino-2-hydroxy-butyric acid ethyl ester | 7.71 mmol, 2.17 g | C(C)OC([C@@H](CCNC(=O)OCC1=CC=CC=C1)O)=O | C14H19NO5
reactant | sodium borohydride | 15.4 mmol, 583 mg | [BH4-].[Na+]
reactant | MeOH | 3 mL | CO | CH4O
reactant | HCl | Cl | ClH
solvent | EtOH | 6 mL | CCO | C2H6O
solvent | EtOH | 4 mL | CCO | C2H6O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | ((R)-3,4-Dihydroxy-butyl)-carbamic acid benzyl ester | 1.76 g, 96% | C(C1=CC=CC=C1)OC(NCC[C@H](CO)O)=O | C12H17NO4
